US07709471B2
N-(2,4-dichloropyrimidin-5-yl)prop-2-enamide
To a solution of 5-Amino-2,4-dichloropyrimidine (Chempacific; 100 mg, 0.610 mmol) in THF (2 mL) was added triethylamine (170 μL, 1.22 mmol) followed by 3-Chloropropionyl Chloride (Aldrich; 64 mL, 0.671 mmol) The reaction was stirred at room temperature for 18 hrs.

reactant | 5-Amino-2,4-dichloropyrimidine | 0.610 mmol, 100 mg | NC=1C(=NC(=NC1)Cl)Cl | C4H3Cl2N3
reactant | triethylamine | 1.22 mmol, 170 μL | C(C)N(CC)CC | C6H15N
reactant | 3-Chloropropionyl Chloride | 0.671 mmol, 64 mL | ClCCC(=O)Cl | C3H4Cl2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2,4-dichloropyrimidin-5-yl)prop-2-enamide | ClC1=NC=C(C(=N1)Cl)NC(C=C)=O | C7H5Cl2N3O
